US08008293B2
Synthesis of (1S,6S,8aR)-6-(4-chlorophenyl)-1-methyltetrahydropyrrolo[2,1-c][1,4]oxazine-3,4-dione
Diethyl oxalate (5 mL) was added to (S)-1-[(2R,5S)-5-(4-chlorophenyl)pyrrolidine-2-yl]ethanol (570 mg). Stirring was continued for 2 hours at 120° C. The solvent was removed under a vacuum, and the residue was purified by silica gel column chromatography (heptane/ethyl acetate→ethyl acetate), and the title compound (470 mg) was obtained. The physical property values are as follows.

reactant | Diethyl oxalate | 5 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | (S)-1-[(2R,5S)-5-(4-chlorophenyl)pyrrolidine-2-yl]ethanol | 570 mg | ClC1=CC=C(C=C1)[C@@H]1CC[C@@H](N1)[C@H](C)O | C12H16ClNO
product | (1S,6S,8aR)-6-(4-chlorophenyl)-1-methyltetrahydropyrrolo[2,1-c][1,4]oxazine-3,4-dione | 470 mg | ClC1=CC=C(C=C1)[C@@H]1CC[C@@H]2[C@@H](OC(C(N21)=O)=O)C | C14H14ClNO3
